US04300942
A solution of triethylamine (7.25 g.; 0.072 mol.) in 100 ml. of diethyl ether was added dropwise to a solution of freshly prepared ethyl-N-[(benzylthio)carbonyl]-N-[dichlorophosphinylmethyl]-glycinate (13.8 g.; 0.036 mol.) and m-cresol (7.8 g.; 0.072 mol.) dissolved in 150 ml. of diethyl ether. The reaction mixture was stirred for 16 hours at 25° C., then filtered. The filtrate was washed with 5% sodium hydroxide, 10% hydrochloric acid, and brine. The ether layer was separated, dried over magnesium sulfate and concentrated in vacuo. The residue was taken up in methylene chloride and again washed, dried and concentrated to yield ethyl-N-[(benzylthio)carbonyl]-N-[bis-(3-methylphenoxy)phosphinylmethyl]-glycinate as an oil (nD25 =1.5589) having the following analysis:

reactant | triethylamine | 0.072 mol, 7.25 g | C(C)N(CC)CC | C6H15N
reactant | ethyl-N-[(benzylthio)carbonyl]-N-[dichlorophosphinylmethyl]-glycinate | 0.036 mol, 13.8 g | C(C)OC(CN(CP(=O)(Cl)Cl)C(=O)SCC1=CC=CC=C1)=O | C13H16Cl2NO4PS
reactant | m-cresol | 0.072 mol, 7.8 g | C1=C(C=CC=C1O)C | C7H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | ethyl-N-[(benzylthio)carbonyl]-N-[bis-(3-methylphenoxy)phosphinylmethyl]-glycinate | C(C)OC(CN(CP(=O)(OC1=CC(=CC=C1)C)OC1=CC(=CC=C1)C)C(=O)SCC1=CC=CC=C1)=O | C27H30NO6PS
